US09334279B2
To a 2 dram vial equipped with a stir bar was added 2,4-dichloro-6-(4-isopropoxyphenyl)pyridine (50 mg, 0.18 mmol), 2-(tributylstannyl)pyrazine (65 mg, 0.18 mmol), CuI (9.0 mg, 0.047 mmol), CsF (82 mg, 0.54 mmol), and Pd(PPh3)4 (10.2 mg, 8.86 μmol). The vial was capped with a septum screw-cap and then placed under N2 atmosphere. To the vial was added degassed DMF (1 mL). The vial was placed in a 80° C. heating block with stirring for 1 hour. The reaction mixture was directly purified by C18 chromatography (water:MeOH w/0.1% TFA) to afford 2-(4-chloro-6-(4-isopropoxyphenyl)pyridin-2-yl)pyrazine as a dark solid (37 mg, 64%).

reactant | 2,4-dichloro-6-(4-isopropoxyphenyl)pyridine | 0.18 mmol, 50 mg | ClC1=NC(=CC(=C1)Cl)C1=CC=C(C=C1)OC(C)C | C14H13Cl2NO
reactant | 2-(tributylstannyl)pyrazine | 0.18 mmol, 65 mg | C(CCC)[Sn](C1=NC=CN=C1)(CCCC)CCCC
reactant | CsF | 0.54 mmol, 82 mg | [F-].[Cs+]
catalyst | CuI | 0.047 mmol, 9.0 mg | [Cu]I
catalyst | Pd(PPh3)4 | 8.86 μmol, 10.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-chloro-6-(4-isopropoxyphenyl)pyridin-2-yl)pyrazine | 37 mg, 64% | ClC1=CC(=NC(=C1)C1=CC=C(C=C1)OC(C)C)C1=NC=CN=C1 | C18H16ClN3O
